US08067638B2
N-(2-bromo-6-methyl-4-pivaloyloxyphenyl) 3-nitrobenzamide and an aqueous solution of sodium hydroxide were added to methanol, and the resulting mixture was stirred at 70° C. for 3 hours. The solvent was removed under a reduced pressure to obtain a residue. The resulting residue was dissolved in ethyl acetate, washed with aqueous 2N hydrochloric acid solution, and then dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:EtOAc=1:1) to obtain N-(2-bromo-6-methyl-4-hydroxyphenyl) 3-nitrobenzamide. Then, the desired title product was prepared according to the conditions as described in Example 1-3 (Yield: 97%).

reactant | N-(2-bromo-6-methyl-4-pivaloyloxyphenyl) 3-nitrobenzamide | BrC1=C(C(=CC(=C1)OC(C(C)(C)C)=O)C)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H19BrN2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-bromo-6-methyl-4-hydroxyphenyl) 3-nitrobenzamide | BrC1=C(C(=CC(=C1)O)C)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H11BrN2O4
